US09120749B2
(6-bromo-4-((trans-4-((3-hydroxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone
To a solution of (trans-4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)cyclohexyl)methyl methanesulfonate (362 mg, 0.75 mmol) and 3-hydroxypyrrolidine (262 mg, 3.0 mmol) in acetonitrile (15 mL) was added N,N-diisopropylethylamine (1.0 mL, 5.8 mmol) and the reaction mixture was heated at 80° C. for 16 h. The solution was cooled to room temperature, diluted satd. aq. NaHCO3 and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, concentrated and purified by column chromatography (silica, 0-20% methanol/dichloromethane) to afford the desired product (174 mg, 49%) as an off-white solid. ESI MS m/z 472 [C24H30BrN3O2+H]+

reactant | (trans-4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)cyclohexyl)methyl methanesulfonate | 0.75 mmol, 362 mg | CS(=O)(=O)OC[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)Br)C(=O)C1CC1 | C21H25BrN2O4S
reactant | 3-hydroxypyrrolidine | 3.0 mmol, 262 mg | OC1CNCC1 | C4H9NO
reactant | N,N-diisopropylethylamine | 5.8 mmol, 1.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (6-bromo-4-((trans-4-((3-hydroxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 174 mg, 49% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CC(CC1)O | C24H30BrN3O2
